US06613775B1
Synthesis of Diethyl 8-Aminoimidazo[1,2-a]pyridin-2 3-dicarboxylate
A solution of 2,3-diaminopyridine (13.1 g, 0.12 mol) , 2-bromo-3-oxo-succinic acid diethyl ester (31 g, 0.12 mol) and sodium carbonate (13.2 g, 0.12 mol) in 1,2-dimethoxyethane (200 ml) was refluxed for 20 h. The solvent was evaporated under reduced pressure and the residue was suspended in methylene chloride and filtrated through silica gel. The filtrate was evaporated under reduced pressure to give 10.9 g (33%) of the title compound as an oil.

reactant | 2,3-diaminopyridine | 0.12 mol, 13.1 g | NC1=NC=CC=C1N | C5H7N3
reactant | 2-bromo-3-oxo-succinic acid diethyl ester | 0.12 mol, 31 g | C(C)OC(C(C(C(=O)OCC)=O)Br)=O | C8H11BrO5
reactant | sodium carbonate | 0.12 mol, 13.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | Diethyl 8-Aminoimidazo[1,2-a]pyridin-2 3-dicarboxylate | 10.9 g, 33% | NC=1C=2N(C=CC1)C(=C(N2)C(=O)OCC)C(=O)OCC | C13H15N3O4
